US05962741
0.48 g of Pt/C catalyst (5%) and 1.5 g of water are placed in a beaker and mixed with 103 mg of aqueous H3PO2 solution (50% by weight, corresponding to 5% by weight phosphorus, based on the catalyst). The mixture is stirred for 10 minutes at room temperature, then 77 mg of vanadylacetyl acetonate VO(acac)2 are added and stirred for a further 5 minutes. 40 g of 4-chloro-3,5-dinitro-benzotrifluoride and 47 g of toluene are placed in an agitator autoclave, and the catalyst suspension is flushed in with 4 g of water. Hydrogenation subsequently takes place at a temperature of 100° C. and at a hydrogen pressure of 5 bar. When the hydrogen uptake is complete, the autoclave is cooled and rendered inert with nitrogen. The catalyst is filtered off and washed with toluene. After working up by distillation, 29.8 g of 3,5-diamino-4-chloro-benzotrifluoride (yield 95.8% of theory) are obtained. Elementary analysis:

reactant | water | 1.5 g | O | H2O
reactant | phosphorus | [P] | P
reactant | 4-chloro-3,5-dinitro-benzotrifluoride | 40 g | ClC1=C(C=C(C=C1[N+](=O)[O-])C(F)(F)F)[N+](=O)[O-] | C7H2ClF3N2O4
catalyst | Pt/C | 0.48 g | [Pt] | Pt
catalyst | H3PO2 | 103 mg | O[PH2]=O | H3O2P
solvent | toluene | 47 g | C1(=CC=CC=C1)C | C7H8
product | 3,5-diamino-4-chloro-benzotrifluoride | 29.8 g, yield 95.8% | NC=1C=C(C=C(C1Cl)N)C(F)(F)F | C7H6ClF3N2
